2177-01-25 16:51:00 Physician Attending Progress Note
Chief Complaint: altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   52M presented with dyspnea, constipation, chest pain and delirium over
   the course of the day. In ER, vitals stable though he was confused and
   combative. Given haldol and ativan. Intubated to facilitate work-up.
   Head CT negative for acute changes, torso CT suggested RLL pneumonia
   and extensive stool. He was given vanco and zosyn. Tox screen negative.
   Then given CTX 2 gm and underwent LP which was negative.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Propofol - [**2177-1-25**] 03:44 PM
   Heparin Sodium (Prophylaxis) - [**2177-1-25**] 03:55 PM
   Other medications:
   Changes to medical and family history:
   hepC
   CVA's, left hemiparesis
   HTN
   former alcohol use
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Neurologic: delirium
   Flowsheet Data as of  [**2177-1-25**] 04:45 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**78**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 95 (88 - 95) bpm
   BP: 114/76(84) {111/76(84) - 119/84(92)} mmHg
   RR: 10 (9 - 15) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62 kg (admission): 62 kg
             Total In:
             3,020 mL
   PO:
             TF:
   IVF:
   20 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  2,710 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    310 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 818 (818 - 879) mL
   PS : 5 cmH2O
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ////
   Ve: 9.2 L/min
   Physical Examination
   General Appearance: Well nourished
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, moving all 4 extremities
   Labs / Radiology
   1.0
   35
   7.6
        [image002.jpg]
   Other labs: ALT / AST:71/46, Alk Phos / T Bili:/0.5, Amylase /
   Lipase:/21
   Fluid analysis / Other labs: LP negative
   Imaging: torso CT - RLL infiltrate, subtle infiltrate LLL
   head CT unremarkable prelim report
   ECG: NSR, no ischemia
   Assessment and Plan
   pneumonia - continue abx, can extubate
   altered mental status - perhaps related to pneumonia causing delirium
   on top of baseline dementia. liver seems like a less likely cause. will
   extubate and follow. Awaiting family to arrive to clarify these issues
   hepC - no active issues
   ICU Care
   Nutrition: npo for extubation
   Glycemic Control:
   Lines:
   18 Gauge - [**2177-1-25**] 02:51 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:  36
   Patient is critically ill
   -----------------------------------------------------------------------
   -----------------------------------------------------------------------
   -----------------------------------------------------------

2177-01-26 07:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2177-1-25**] 04:30 PM
   Spoke with the sister and [**Name2 (NI) 782**].  He has been at [**Hospital1 **] Pavilion for
   the last 6 months for a inpatient psych admission.  Per the sister it
   was a misunderstanding regardng possible assault against her.  She was
   able to get him released to her custody this last Sat.  He has been at
   home.  She reports that he developed SOB, cough, sputum and fevers
   yesterday and brought him to the ED.  Pt reportly has dementia,
   delerium and psychosis.  Reportly able to communicate and advocate for
   himself. Oriented x2 at baseline. Need assistance with ADLs.
   Home Meds:
   Atenolol 12.5mg [**Hospital1 **]
   Cogentin 0.5mg TID
   Celexa 20mg daily
   Dipyridamide/ ASA [**Hospital1 **]
   Cymbalta 60mg daily
   Haldol 5mg qhs
   HCTZ 12.5mg daily
   Nifedipine 20mg [**Hospital1 **]
   Zyprexa 10mg qhs
   Protonix 40mg daaily
   Hep SQ
   Colace 100mg
   Zyprexa prn
   --treat pneumonia with Zosyn/Vanco given HAP and concern for aspiration
   will cover with zosyn.
   -- For agitation will give zyprexa 10mg and or haldol 5mg
   -- pt CSF gram stain negative
   -- sputum frown gram positive cocci in pairs and clusters
   -- continued to be agitated overnight. Requring 10mg IV doses of haldol
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2177-1-25**] 04:48 PM
   Levofloxacin - [**2177-1-25**] 06:00 PM
   Vancomycin - [**2177-1-25**] 09:14 PM
   Infusions:
   Other ICU medications:
   Propofol - [**2177-1-25**] 03:44 PM
   Heparin Sodium (Prophylaxis) - [**2177-1-25**] 09:13 PM
   Haloperidol (Haldol) - [**2177-1-26**] 06:28 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-1-26**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**78**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.1
C (98.8
   HR: 126 (88 - 143) bpm
   BP: 154/127(133) {109/76(84) - 243/203(214)} mmHg
   RR: 19 (9 - 26) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 62 kg (admission): 62 kg
             Total In:
                                                                  4,054 mL
                                                                    277 mL
   PO:
             TF:
   IVF:
                                                                  1,054 mL
                                                                    277 mL
   Blood products:
   Total out:
                                                                  4,430 mL
                                                                    870 mL
   Urine:
                                                                  2,080 mL
                                                                    870 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -376 mL
                                                                   -593 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 818 (818 - 879) mL
   PS : 5 cmH2O
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: ///24/
   Ve: 9.2 L/min
   Physical Examination
   GEN: Mildly agitation, A&Ox0
   HEENT: pupils reactive to light, sclera anicteric, no epistaxis, MMM
   NECK: No JVD,
   COR: RRR, no M/G/R, normal S1 S2, radial pulses +2
   PULM: Lungs clear at apices, coarse at bases
   ABD: Soft, NT, ND, +BS, no HSM, no masses
   EXT: No C/C/E, no palpable cords
   NEURO: Slight tremor of both hands
   Labs / Radiology
   228 K/uL
   12.2 g/dL
   108 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.6 mEq/L
   11 mg/dL
   101 mEq/L
   140 mEq/L
   36.2 %
   9.4 K/uL
        [image002.jpg]
                             [**2177-1-25**]  03:42 PM
                             [**2177-1-26**]  03:59 AM
   WBC
   9.4
   Hct
   36.2
   Plt
   228
   Cr
   0.8
   TropT
   <0.01
   Glucose
   108
   Other labs: PT / PTT / INR:13.1/35.7/1.1, CK / CKMB /
   Troponin-T:396/5/<0.01, ALT / AST:58/55, Alk Phos / T Bili:107/1.1,
   Differential-Neuts:71.4 %, Lymph:20.4 %, Mono:5.4 %, Eos:2.5 %,
   Albumin:4.0 g/dL, LDH:243 IU/L, Ca++:9.1 mg/dL, Mg++:1.6 mg/dL, PO4:4.1
   mg/dL
   Assessment and Plan
 PNEUMONIA, OTHER
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   Assesment: 52 year-old male with a history of Hepatitis C, prior
   strokes with left hemiparesis, HTN, HL who presents with altered mental
   status.
   .
   Plan:
   #. Altered Mental Status: Pt with baseline line deficits after stroke
   as well as extensive substance abuse history.  However, pt was more
   combative, oriented x 0 and confused on arrival.  He had to be
   intubated and sedated in Ed initially. CT-head negative for acute
   process. Pt with h/o hepC and lab work significant for mild
   transaminitis.  No evidence of decompensated liver failure or hepatic
   encephalopathy. Ammonia was 57.  Infectious workup + for right lower
   lobe pneumonia, but no leukocytosis or elevated lactate. Urine and
   serum tox negative. LP does not show evidence of meningitis but pt
   received single dose of Acyclovir for ? HSV now stopped given LP
   results.  Unclear cause of altered mental status. Current differential
   includes: infection (pneumonia vs encephalitis), hepatic
   encephalopathy, stroke or medications (diclofenac is hepatically
   cleared). Overnight still required significant Haldol to control
   agitation but this morning is interacting and less agitated.   At this
   point given negative work up  pt likely has baseline dementia and
   infection (pneumonia) likely altered him.
   -- treat pneumonia with Vanc and Zosyn
   -- F/U final CSF culture (gram stain neg)
   -- trial of lactulose with titration to BM >3
   -- holding gabapentin and diclofenac
   -- consider MRI in the future if continues to be altered
   -- Consider psych consult given history
   --Obtain records from [**Last Name (un) 11401**] to determine baseline/psych history
   -- Try to minimize use of anti-psychotics and orient frequently
   #. Pneumonia: CT-scan showed RLL pneumonia. No leukocytosis or elevated
   lactate. Urine legionella negative. Given sputum cultures (GPC in
   pairs/clusters) and healthcare associated pneumonia have changed to
   Vanc/Zosyn
   -- Continue Vanc/Zosyn day #2
   -- F/U final sputum culture/sensetivities
   .
   #. Hepatitis C: Pt with mild transaminitis, no evidence of
   encephalopathy per report. Ammonia level of 57. Last PCR showed 13.7
   million copies. No treatment and followed by hepatology.
   -- cont to trend LFT
   -- lactulose trial
   .
   #. Respiratory: Pt intubated for sedation to obtain imaging but easily
   extubated on arrival to ICU
   #. HTN: Pt currently normotensive with BP 114/76. Will hold BP meds for
   now given evidence of infection.  Will monitor and add back home
   regimen if stable.
   .
   #HL
   - cont simvastatin
   .
   # FEN: NPO
   .
   # Access: PIV
   .
   # PPx: H2/heparin sq/ bowel regimen
   .
   # Code: FULL
   .
   # Dispo: ICU
   .
   # Comm: Sister: [**Name (NI) 11389**] [**Known lastname 11390**] [**Telephone/Fax (1) 11391**]
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2177-1-25**] 02:51 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: not needed
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2177-01-26 07:57:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   52M presented with dyspnea, constipation, chest pain and delirium over
   the course of the day. In ER, vitals stable though he was confused and
   combative. Given haldol and ativan. Intubated to facilitate work-up.
   Head CT negative for acute changes, torso CT suggested RLL pneumonia
   and extensive stool. He was given vanco and zosyn. Tox screen negative.
   Then given CTX 2 gm and underwent LP which was negative.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2177-1-25**] 04:30 PM
   Extubated yesterday afternoon
   Allergies:
   No Known Drug Allergies
   Zosyn
   Vancomycin - [**2177-1-25**] 09:14 PM
   Propofol - [**2177-1-25**] 03:44 PM
   Heparin Sodium (Prophylaxis) - [**2177-1-25**] 09:13 PM
   Haloperidol (Haldol) - [**2177-1-26**] 06:28 AM
   Lactulose
   Simvastatin
   Colace
   RISS
   Pantoprazole
   Dipyridamide
   Nicotine
   Lopressor
   Nifedipine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-1-26**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**78**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.1
C (98.8
   HR: 126 (88 - 143) bpm
   BP: 154/127(133) {109/76(84) - 243/203(214)} mmHg
   RR: 19 (9 - 26) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 62 kg (admission): 62 kg
             Total In:
                                                                  4,054 mL
                                                                    313 mL
   PO:
             TF:
   IVF:
                                                                  1,054 mL
                                                                    313 mL
   Blood products:
   Total out:
                                                                  4,430 mL
                                                                    870 mL
   Urine:
                                                                  2,080 mL
                                                                    870 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -376 mL
                                                                   -557 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 818 (818 - 879) mL
   PS : 5 cmH2O
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: ///24/
   Ve: 9.2 L/min
   Physical Examination
   Gen: NAD
   HEENT: PERRL, anicteric
   CV: slightly tachy, regular
   Lungs: CTA bilat
   Abd: soft, NTND
   Extrem: no edema
   Neuro:able to answer simple questions, but very dysarthric.  Unclear if
   he knows where he is because he is difficult to understand (in
   Spanish). Moves all extremities
   Musculoskel: some swelling left wrist due to infiltrating IV. Missing
   finger on right hand. No edema
   Labs / Radiology
   12.2 g/dL
   228 K/uL
   108 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.6 mEq/L
   11 mg/dL
   101 mEq/L
   140 mEq/L
   36.2 %
   9.4 K/uL
        [image002.jpg]
                             [**2177-1-25**]  03:42 PM
                             [**2177-1-26**]  03:59 AM
   WBC
   9.4
   Hct
   36.2
   Plt
   228
   Cr
   0.8
   TropT
   <0.01
   Glucose
   108
   Other labs: PT / PTT / INR:13.1/35.7/1.1, CK / CKMB /
   Troponin-T:396/5/<0.01, ALT / AST:58/55, Alk Phos / T Bili:107/1.1,
   Differential-Neuts:71.4 %, Lymph:20.4 %, Mono:5.4 %, Eos:2.5 %,
   Albumin:4.0 g/dL, LDH:243 IU/L, Ca++:9.1 mg/dL, Mg++:1.6 mg/dL, PO4:4.1
   mg/dL
   Assessment and Plan
   52 year old man with hep C, past CVA
s resulting in left side
   hemiparesis and impaired cognition.  On multiple psychiatric
   medications for chronic dementia/agitation (per OSH).
   Pneumonia - continue current abx, stable on 2L.  Afebrile.   Follow up
   sputum culture
   Altered mental status - perhaps related to pneumonia causing delirium
   on top of baseline dementia. liver seems like a less likely cause.  Per
   family report seems to be able to carry out simple conversations at
   baseline.  Now able to answer some questions but quickly becomes
   unintelligible.  Will get additional records from [**Hospital1 **] regarding
   meds and baseline mental status.
        -minimize tubes and restraints
        -lactulose for ? encephalopathy, also for large amount of retained
   stool on CT
   HepC - no active issues. LFT
s mildy elevated but stable. Hep C has
   never been treated.  Lactulose as above
   HTN: gets very hypertensive when agitated, but when calm BP is well
   controlled.  Continue current meds
   ICU Care
   Nutrition: regular diet
   Glycemic Control:
   Lines: 18 Gauge - [**2177-1-25**] 02:51 PM
   Prophylaxis:
   DVT: sc heparin
   Stress ulcer: PPI
   Communication:
   Code status: full, Disposition : ICU due to mental status/nursing
   burden
   Total time spent: 35 min

2177-01-27 07:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   HPI:
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Past medical history:
   Family history:
   Social History:
   Occupation:
   Drugs:
   Tobacco:
   Alcohol:
   Other:
   Review of systems:
   Flowsheet Data as of
   Vital Signs
   Hemodynamic monitoring
   Fluid Balance
                                                                  24 hours
                                                               Since [**78**] AM
   Respiratory
   Physical Examination
   Labs / Radiology
        [image002.jpg]
                                  [**2172-12-21**]
                                   2:33 A
                                  [**2172-12-25**]
                                   10:20 P
                                  [**2172-12-26**]
                                   1:20 P
                                  [**2172-12-27**]
                                   11:50 P
                                  [**2172-12-28**]
                                   1:20 A
                                  [**2172-12-29**]
                                   7:20 P
                                  1//11/006
                                   1:23 P
                                  [**2173-1-21**]
                                   1:20 P
                                  [**2173-1-21**]
                                   11:20 P
                                  [**2173-1-21**]
                                   4:20 P
   WBC
   Hct
   Plt
   Cr
   TropT
   TC02
   Glucose
   Imaging:
   Microbiology:
   ECG:
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Communication:  Comments:
   Code status:
   Disposition:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2177-1-26**] 05:44 PM
 EKG - At [**2177-1-27**] 12:06 AM
   -Spoke with niece [**Name (NI) 2543**]; apparently pt was agitated at [**Hospital1 **] but
   she never saw him this way b/c ? got morphine and other meds which made
   him sleepy around the clock; discharged home 1 week ago and after 3
   days home was c/o pain, restless and moaning so wanted to give pain
   meds and called rehab who said take him to ER
   -Called [**Hospital1 **] Pavillion where pt resided past 6 months
   ([**Telephone/Fax (1) 11412**]); nurse on floor said he received haldol around the
   clock, denied morphine use; can called medical records on Monday to get
   the history/medications
   -Changed Haldol 10mg q8; reduced dose of prn to 5mg q4prn; monitor qt
   -QTC slightly prolonged since admission; will monitor
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2177-1-25**] 04:48 PM
   Levofloxacin - [**2177-1-25**] 06:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2177-1-26**] 08:30 AM
   Vancomycin - [**2177-1-26**] 08:00 PM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2177-1-26**] 12:03 PM
   Heparin Sodium (Prophylaxis) - [**2177-1-26**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-1-27**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**78**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98
   HR: 104 (87 - 134) bpm
   BP: 123/85(95) {100/67(76) - 164/119(118)} mmHg
   RR: 16 (15 - 25) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 62 kg (admission): 62 kg
                  Total In:
                                                                  2,346 mL
                  PO:
                                                                    885 mL
                  TF:
   IVF:
                                                                  1,461 mL
   Blood products:
   Total out:
                                                                  1,650 mL
                                                                    315 mL
   Urine:
                                                                  1,650 mL
                                                                    315 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    696 mL
                                                                   -315 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   346 K/uL
   12.2 g/dL
   78 mg/dL
   1.0 mg/dL
   22 mEq/L
   3.9 mEq/L
   23 mg/dL
   103 mEq/L
   139 mEq/L
   35.8 %
   13.0 K/uL
        [image002.jpg]
                             [**2177-1-25**]  03:42 PM
                             [**2177-1-26**]  03:59 AM
                             [**2177-1-27**]  03:10 AM
   WBC
   9.4
   13.0
   Hct
   36.2
   35.8
   Plt
   228
   346
   Cr
   0.8
   1.0
   TropT
   <0.01
   Glucose
   108
   78
   Other labs: PT / PTT / INR:13.1/35.7/1.1, CK / CKMB /
   Troponin-T:396/5/<0.01, ALT / AST:58/55, Alk Phos / T Bili:107/1.1,
   Differential-Neuts:79.1 %, Lymph:15.3 %, Mono:4.4 %, Eos:1.0 %,
   Albumin:4.0 g/dL, LDH:243 IU/L, Ca++:9.6 mg/dL, Mg++:2.6 mg/dL, PO4:3.8
   mg/dL
   Assessment and Plan
   Assesment: 52 year-old male with a history of Hepatitis C, prior
   strokes with left hemiparesis, HTN, HL who presents with altered mental
   status.
   .
   Plan:
   #. Altered Mental Status: Pt with baseline line deficits after stroke
   as well as extensive substance abuse history.  However, pt was more
   combative, oriented x 0 and confused on arrival.  He had to be
   intubated and sedated in Ed initially. CT-head negative for acute
   process. Pt with h/o hepC and lab work significant for mild
   transaminitis.  No evidence of decompensated liver failure or hepatic
   encephalopathy. Ammonia was 57.  Infectious workup + for right lower
   lobe pneumonia, but no leukocytosis or elevated lactate. Urine and
   serum tox negative. LP does not show evidence of meningitis but pt
   received single dose of Acyclovir for ? HSV now stopped given LP
   results.  Unclear cause of altered mental status. Current differential
   includes: infection (pneumonia vs encephalitis), hepatic
   encephalopathy, stroke or medications (diclofenac is hepatically
   cleared). Overnight still required significant Haldol to control
   agitation but this morning is interacting and less agitated.   At this
   point given negative work up  pt likely has baseline dementia and
   infection (pneumonia) likely altered him.
   -- treat pneumonia with Vanc and Zosyn
   -- F/U final CSF culture (gram stain neg)
   -- trial of lactulose with titration to BM >3
   -- holding gabapentin and diclofenac
   -- consider MRI in the future if continues to be altered
   -- Consider psych consult given history
   --Obtain records from [**Last Name (un) 11401**] to determine baseline/psych history-
   -- Try to minimize use of anti-psychotics and orient frequently
   #. Pneumonia: CT-scan showed RLL pneumonia. No leukocytosis or elevated
   lactate. Urine legionella negative. Given sputum cultures (GPC in
   pairs/clusters) and healthcare associated pneumonia have changed to
   Vanc/Zosyn
however overnight WBC increasing but afebrile overnight
   --Send U/A and culture
   -- Continue Vanc/Zosyn day #3
   -- F/U final sputum culture/sensetivities
   .
   #. Hepatitis C: Pt with mild transaminitis, no evidence of
   encephalopathy per report. Ammonia level of 57. Last PCR showed 13.7
   million copies. No treatment and followed by hepatology.
   -- cont to trend LFT
   -- lactulose trial
   .
   #. Respiratory: Pt intubated for sedation to obtain imaging but easily
   extubated on arrival to ICU
   #. HTN: Pt currently normotensive with BP 114/76. Will hold BP meds for
   now given evidence of infection.  Will monitor and add back home
   regimen if stable.
   .
   #HL
   - cont simvastatin
   .
   # FEN: NPO
   .
   # Access: PIV
   .
   # PPx: H2/heparin sq/ bowel regimen
   .
   # Code: FULL
   .
   # Dispo: ICU
   .
   # Comm: Sister: [**Name (NI) 11389**] [**Known lastname 11390**] [**Telephone/Fax (1) 11391**]
 PNEUMONIA, OTHER
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   ICU Care
   Nutrition: regular cardiac diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2177-1-26**] 03:11 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2177-01-27 10:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2177-1-26**] 05:44 PM
 EKG - At [**2177-1-27**] 12:06 AM
   -Spoke with niece [**Name (NI) 2543**]; apparently pt was agitated at [**Hospital1 **] but
   she never saw him this way b/c ? got morphine and other meds which made
   him sleepy around the clock; discharged home 1 week ago and after 3
   days home was c/o pain, restless and moaning so wanted to give pain
   meds and called rehab who said take him to ER
   -Called [**Hospital1 **] Pavillion where pt resided past 6 months
   ([**Telephone/Fax (1) 11412**]); nurse on floor said he received haldol around the
   clock, denied morphine use; can called medical records on Monday to get
   the history/medications
   -Changed Haldol 10mg q8; reduced dose of prn to 5mg q4prn; monitor qt
   -QTC slightly prolonged since admission; will monitor
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2177-1-25**] 04:48 PM
   Levofloxacin - [**2177-1-25**] 06:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2177-1-26**] 08:30 AM
   Vancomycin - [**2177-1-27**] 09:37 AM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2177-1-26**] 12:03 PM
   Heparin Sodium (Prophylaxis) - [**2177-1-27**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-1-27**] 10:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**78**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.3
C (97.4
   HR: 112 (87 - 134) bpm
   BP: 151/88(92) {105/72(84) - 152/112(118)} mmHg
   RR: 20 (14 - 25) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 62 kg (admission): 62 kg
             Total In:
                                                                  2,346 mL
                                                                    440 mL
   PO:
                                                                    885 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,461 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  1,650 mL
                                                                    525 mL
   Urine:
                                                                  1,650 mL
                                                                    525 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    696 mL
                                                                    -85 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///22/
   Physical Examination
   General Appearance: Thin, Anxious
   Eyes / Conjunctiva: Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Increased, Agitated
   Labs / Radiology
   346 K/uL
   12.2 g/dL
   78 mg/dL
   1.0 mg/dL
   22 mEq/L
   3.9 mEq/L
   23 mg/dL
   103 mEq/L
   139 mEq/L
   35.8 %
   13.0 K/uL
        [image002.jpg]
                             [**2177-1-25**]  03:42 PM
                             [**2177-1-26**]  03:59 AM
                             [**2177-1-27**]  03:10 AM
   WBC
   9.4
   13.0
   Hct
   36.2
   35.8
   Plt
   228
   346
   Cr
   0.8
   1.0
   TropT
   <0.01
   Glucose
   108
   78
   Other labs: PT / PTT / INR:13.1/35.7/1.1, CK / CKMB /
   Troponin-T:396/5/<0.01, ALT / AST:58/55, Alk Phos / T Bili:107/1.1,
   Differential-Neuts:79.1 %, Lymph:15.3 %, Mono:4.4 %, Eos:1.0 %,
   Albumin:4.0 g/dL, LDH:243 IU/L, Ca++:9.6 mg/dL, Mg++:2.6 mg/dL, PO4:3.8
   mg/dL
   Assessment and Plan
   Assesment: 52 year-old male with a history of Hepatitis C, prior
   strokes with left hemiparesis, HTN, HL who presents with altered mental
   status.
   .
   Plan:
   #. Altered Mental Status: Pt with baseline line deficits after stroke
   as well as extensive substance abuse history.  However, pt was more
   combative, oriented x 0 and confused on arrival.  He had to be
   intubated and sedated in Ed initially. CT-head negative for acute
   process. Pt with h/o hepC and lab work significant for mild
   transaminitis.  No evidence of decompensated liver failure or hepatic
   encephalopathy. Ammonia was 57.  Infectious workup + for right lower
   lobe pneumonia, but no leukocytosis or elevated lactate. Urine and
   serum tox negative. LP does not show evidence of meningitis but pt
   received single dose of Acyclovir for ? HSV now stopped given LP
   results.  Unclear cause of altered mental status. Current differential
   includes: infection (pneumonia vs encephalitis), hepatic
   encephalopathy, stroke or medications (diclofenac is hepatically
   cleared). Overnight still required significant Haldol to control
   agitation but this morning is interacting and less agitated.   At this
   point given negative work up  pt likely has baseline dementia and
   infection (pneumonia) likely altered him.
   -- treat pneumonia with Vanc
   -- CSF negative
   -- trial of lactulose with titration to BM >3
   -- restart Gabapentin for pain contribution to AMS
   -- IVF x 1L
   -- sych consult given history
   --Obtain records from [**Last Name (un) 11401**] to determine baseline/psych history
   -- Try to minimize use of anti-psychotics and orient frequently
   #. Pneumonia: CT-scan showed RLL pneumonia. No leukocytosis or elevated
   lactate. Urine legionella negative. Given sputum cultures (GPC in
   pairs/clusters) and healthcare associated pneumonia have changed to
   Vanc/Zosyn
   -- Continue Vanc day #3 / 8 day course
   -- F/U final sputum culture/sensetivities
   .
   #. Hepatitis C: Pt with mild transaminitis, no evidence of
   encephalopathy per report. Ammonia level of 57. Last PCR showed 13.7
   million copies. No treatment and followed by hepatology.
   -- cont to trend LFT
   -- lactulose trial
   .
   #. Respiratory: Pt intubated for sedation to obtain imaging but easily
   extubated on arrival to ICU
   #. HTN: Pt currently normotensive with BP 114/76. Will hold BP meds for
   now given evidence of infection.  Will monitor and add back home
   regimen if stable.
   -- long acting nifedipine
   .
   #HL
   - cont simvastatin
   .
   # FEN: NPO
   .
   # Access: PIV
   .
   # PPx: H2/heparin sq/ bowel regimen
   .
   # Code: FULL
   .
   # Dispo: ICU
   .
   # Comm: Sister: [**Name (NI) 11389**] [**Known lastname 11390**] [**Telephone/Fax (1) 11391**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2177-1-26**] 03:11 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2177-01-27 10:15:00 Physician Attending Progress Note
Chief Complaint: Altered mental status.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Overnight started on standing haldol. Still significantly agitated, and
   anxious.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2177-1-25**] 04:48 PM
   Levofloxacin - [**2177-1-25**] 06:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2177-1-26**] 08:30 AM
   Vancomycin - [**2177-1-27**] 09:37 AM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2177-1-26**] 12:03 PM
   Heparin Sodium (Prophylaxis) - [**2177-1-27**] 08:00 AM
   Other medications:
   lactulose tid, simvastatin, colace, insulin sliding scale, heparin s/c,
   vanco 1g q12, pantoprazole, duloxetine, celexa, dipyramidol+ASA,
   nicotine patch, lopressor tid, nifedipine, haldol 10mg po q8.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-1-27**] 10:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**78**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.3
C (97.4
   HR: 112 (87 - 134) bpm
   BP: 151/88(92) {105/72(84) - 152/112(118)} mmHg
   RR: 20 (14 - 25) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 62 kg (admission): 62 kg
             Total In:
                                                                  2,346 mL
                                                                    440 mL
   PO:
                                                                    885 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,461 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  1,650 mL
                                                                    525 mL
   Urine:
                                                                  1,650 mL
                                                                    525 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    696 mL
                                                                    -85 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///22/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Thin, Anxious, Diaphoretic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: verbal stimuli
   Lungs clear
   S1, S2 regular tachy.
   Labs / Radiology
   12.2 g/dL
   346 K/uL
   78 mg/dL
   1.0 mg/dL
   22 mEq/L
   3.9 mEq/L
   23 mg/dL
   103 mEq/L
   139 mEq/L
   35.8 %
   13.0 K/uL
        [image002.jpg]
                             [**2177-1-25**]  03:42 PM
                             [**2177-1-26**]  03:59 AM
                             [**2177-1-27**]  03:10 AM
   WBC
   9.4
   13.0
   Hct
   36.2
   35.8
   Plt
   228
   346
   Cr
   0.8
   1.0
   TropT
   <0.01
   Glucose
   108
   78
   Other labs: PT / PTT / INR:13.1/35.7/1.1, CK / CKMB /
   Troponin-T:396/5/<0.01, ALT / AST:58/55, Alk Phos / T Bili:107/1.1,
   Differential-Neuts:79.1 %, Lymph:15.3 %, Mono:4.4 %, Eos:1.0 %,
   Albumin:4.0 g/dL, LDH:243 IU/L, Ca++:9.6 mg/dL, Mg++:2.6 mg/dL, PO4:3.8
   mg/dL
   Imaging: CXR: clear.. Chest CT small infiltrate in the RLL.
   Microbiology: sputum coag + staph from [**1-25**]
   urine legionella negative.
   CSF cx negative
   Urine >100,000 entercoccus senses pending.
   Assessment and Plan
   - Pneumonia: small RLL infiltrate atelectasis vs pneumonia. On Vanco
   follow up vanco troughs treat for 8 days. D/c zosyn.
   - Bacteriuria: negative U/A likely not true UTI but will be covered
   with vanco.
   - Altered mental status: likely paranoid, ? psychosis, suspect
   underlying schizophrenia, hx of polysubstance abuse.  no major medical
   precipitant apart from maybe small pneumonia. Consult psychiatry,
   obtain records from [**Hospital1 **]. Negative LP, negative CT. Monitor QTc.
   - Elevated creatinine: will replete with ivf x2L today.
   - Pain: ? neuropathic pain in the Bilateral lower extremities, will
   resume home neurontin, as his pain appears to be a major contributor to
   his agitation.
   - Constipation: improved s/p lactulose.
   - HTN: change to longacting nifedpine
   - Stroke: continue aggrenox.
   ICU Care
   Nutrition:
   Comments: regular diet with RN observation.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2177-1-26**] 03:11 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments: I updated sister who is HCP. [**Name (NI) **] need to involve SW and case
   manager tomorrow re placement.
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2177-01-28 08:01:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Records from whittien arrived, pt treated for psychosis with Haldol
   and Zyprexa
   - Overnight became very rigid and with bruxism, gave Benadryl 25mg x 1
   for ? dystonia with improvement
 EKG - At [**2177-1-27**] 07:04 PM
 BLOOD CULTURED - At [**2177-1-28**] 05:31 AM
 URINE CULTURE - At [**2177-1-28**] 05:31 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2177-1-25**] 04:48 PM
   Levofloxacin - [**2177-1-25**] 06:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2177-1-26**] 08:30 AM
   Vancomycin - [**2177-1-27**] 08:33 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2177-1-27**] 10:11 PM
   Haloperidol (Haldol) - [**2177-1-28**] 06:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-1-28**] 08:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**78**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.8
C (98.2
   HR: 91 (60 - 114) bpm
   BP: 149/102(114) {102/66(74) - 157/107(116)} mmHg
   RR: 13 (9 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62 kg (admission): 62 kg
                  Total In:
                                                                  2,000 mL
                  PO:
                                                                    600 mL
                  TF:
   IVF:
                                                                  1,400 mL
   Blood products:
   Total out:
                                                                  1,440 mL
                                                                    410 mL
   Urine:
                                                                  1,440 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    560 mL
                                                                   -410 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///29/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   281 K/uL
   11.5 g/dL
   87 mg/dL
   0.7 mg/dL
   29 mEq/L
   3.9 mEq/L
   18 mg/dL
   103 mEq/L
   140 mEq/L
   35.2 %
   6.3 K/uL
        [image002.jpg]
                             [**2177-1-25**]  03:42 PM
                             [**2177-1-26**]  03:59 AM
                             [**2177-1-27**]  03:10 AM
                             [**2177-1-27**]  07:22 PM
                             [**2177-1-28**]  04:43 AM
   WBC
   9.4
   13.0
   10.5
   6.3
   Hct
   36.2
   35.8
   33.1
   35.2
   Plt
   [**Telephone/Fax (3) 11431**]81
   Cr
   0.8
   1.0
   0.8
   0.7
   TropT
   <0.01
   Glucose
   108
   78
   123
   87
   Other labs: PT / PTT / INR:11.9/34.0/1.0, CK / CKMB /
   Troponin-T:396/5/<0.01, ALT / AST:58/55, Alk Phos / T Bili:107/1.1,
   Differential-Neuts:79.1 %, Lymph:15.3 %, Mono:4.4 %, Eos:1.0 %,
   Albumin:4.0 g/dL, LDH:243 IU/L, Ca++:9.0 mg/dL, Mg++:2.1 mg/dL, PO4:3.1
   mg/dL
   Assessment and Plan
   Assesment: 52 year-old male with a history of Hepatitis C, prior
   strokes with left hemiparesis, HTN, HL who presents with altered mental
   status.
   .
   Plan:
   #. Altered Mental Status: Pt with baseline line deficits after stroke
   as well as extensive substance abuse history.  However, pt was more
   combative, oriented x 0 and confused on arrival.  He had to be
   intubated and sedated in Ed initially. CT-head negative for acute
   process. Pt with h/o hepC and lab work significant for mild
   transaminitis.  No evidence of decompensated liver failure or hepatic
   encephalopathy. Ammonia was 57.  Infectious workup + for right lower
   lobe pneumonia, but no leukocytosis or elevated lactate. Urine and
   serum tox negative. LP does not show evidence of meningitis but pt
   received single dose of Acyclovir for ? HSV now stopped given LP
   results.  Unclear cause of altered mental status. Current differential
   includes: infection (pneumonia vs encephalitis), hepatic
   encephalopathy, stroke or medications (diclofenac is hepatically
   cleared). Overnight still required significant Haldol to control
   agitation but this morning is interacting and less agitated.   At this
   point given negative work up  pt likely has baseline dementia and
   infection (pneumonia) likely altered him.
   -- treat pneumonia with Vanc
   -- CSF negative
   -- trial of lactulose with titration to BM >3
   -- restart Gabapentin for pain contribution to AMS
   -- IVF x 1L
   -- Appreciate psych following, given dystonic reaction may need to
   minimize Haldol and consider atypical [**Last Name (LF) **], [**First Name3 (LF) 77**] records required both
   Haldol and Zyprexa for symptom control at rehab
   --Records from [**Last Name (un) 11401**] in chart
   -- Try to minimize use of anti-psychotics and orient frequently
   .
   #. Pneumonia: CT-scan showed RLL pneumonia. No leukocytosis or elevated
   lactate. Urine legionella negative. Given sputum cultures (GPC in
   pairs/clusters) and healthcare associated pneumonia have changed to
   Vanc/Zosyn
   -- Continue Vanc day #3 / 14 day course (MRSA in sputum)
   -- PICC line for Abx
   -- F/U final sputum culture/sensetivities
   .
   #. Hepatitis C: Pt with mild transaminitis, no evidence of
   encephalopathy per report. Ammonia level of 57. Last PCR showed 13.7
   million copies. No treatment and followed by hepatology.
   -- cont to trend LFT
   -- lactulose trial
   .
   #. Respiratory: Pt intubated for sedation to obtain imaging but easily
   extubated on arrival to ICU
   #. HTN: Pt currently normotensive with BP 114/76. Will hold BP meds for
   now given evidence of infection.  Will monitor and add back home
   regimen if stable.
   -- long acting nifedipine
   .
   #HL
   - cont simvastatin
   .
   # FEN: NPO
   .
   # Access: PIV
   .
   # PPx: H2/heparin sq/ bowel regimen
   .
   # Code: FULL
   .
   # Dispo: ICU
   .
 PNEUMONIA, OTHER
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2177-1-26**] 03:11 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2177-01-28 10:49:00 Physician Attending Progress Note
Chief Complaint: Altered mental status.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 EKG - At [**2177-1-27**] 07:04 PM
 BLOOD CULTURED - At [**2177-1-28**] 05:31 AM
 URINE CULTURE - At [**2177-1-28**] 05:31 AM
   Received 2 L IVF yesterday for evidence of volume depletion based on
   creat, Hct
   Remains hemodynamically stable
   Poosible dystonia overnight, treated and impoved with benadryl
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2177-1-25**] 04:48 PM
   Levofloxacin - [**2177-1-25**] 06:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2177-1-26**] 08:30 AM
   Vancomycin - [**2177-1-28**] 08:57 AM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2177-1-28**] 06:50 AM
   Heparin Sodium (Prophylaxis) - [**2177-1-28**] 08:58 AM
   Other medications:
   lactulose, simvastatin, colace, insulin sliding scale, heparin s/c tid,
   vancomycin 1g iv 12, protonix, duloxetine, aggrastat, nicotine patch,
   lopressor, nifedipine, neurontin, cogentin, haldol 5mg po q6, held and
   midnight and 6am. recieved 5mg iv of haldol.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-1-28**] 10:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**78**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.4
C (97.6
   HR: 73 (60 - 114) bpm
   BP: 152/105(114) {102/66(74) - 157/107(116)} mmHg
   RR: 16 (9 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62 kg (admission): 62 kg
             Total In:
                                                                  2,000 mL
                                                                    560 mL
   PO:
                                                                    600 mL
                                                                    360 mL
   TF:
   IVF:
                                                                  1,400 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  1,440 mL
                                                                    575 mL
   Urine:
                                                                  1,440 mL
                                                                    575 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    560 mL
                                                                    -15 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Thin
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : , Crackles : right base.)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Normal, no cogwheeling.
   Labs / Radiology
   11.5 g/dL
   281 K/uL
   87 mg/dL
   0.7 mg/dL
   29 mEq/L
   3.9 mEq/L
   18 mg/dL
   103 mEq/L
   140 mEq/L
   35.2 %
   6.3 K/uL
        [image002.jpg]
                             [**2177-1-25**]  03:42 PM
                             [**2177-1-26**]  03:59 AM
                             [**2177-1-27**]  03:10 AM
                             [**2177-1-27**]  07:22 PM
                             [**2177-1-28**]  04:43 AM
   WBC
   9.4
   13.0
   10.5
   6.3
   Hct
   36.2
   35.8
   33.1
   35.2
   Plt
   [**Telephone/Fax (3) 11431**]81
   Cr
   0.8
   1.0
   0.8
   0.7
   TropT
   <0.01
   Glucose
   108
   78
   123
   87
   Other labs: PT / PTT / INR:11.9/34.0/1.0, CK / CKMB /
   Troponin-T:396/5/<0.01, ALT / AST:58/55, Alk Phos / T Bili:107/1.1,
   Differential-Neuts:79.1 %, Lymph:15.3 %, Mono:4.4 %, Eos:1.0 %,
   Albumin:4.0 g/dL, LDH:243 IU/L, Ca++:9.0 mg/dL, Mg++:2.1 mg/dL, PO4:3.1
   mg/dL
   Assessment and Plan
 PNEUMONIA, OTHER: continue vancomycin for MRSA pneumonia for 10days.
   Will place PICC line.
 ALTERED MENTAL STATUS (NOT DELIRIUM): per records patient was
   recently treated for psychosis at [**Hospital3 **]. Will discuss with
   Psych. Also with possible dystonic reaction overnight on haldol,
   improved with benadryl. Will hold po haldol pending psych re-evaluation
   this am.  Continue cogentin, restrains, behavorial therapy.
   ICU Care
   Nutrition:
   Comments: aspiration precautions, regular diet.
   Glycemic Control:
   Lines:
   20 Gauge - [**2177-1-26**] 03:11 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: Not indicated
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes